US04563472
1-(2',3',3'-Triiodoallyl)imidazole
To a solution of 340 mg (5 mmoles) of imidazole in 5.0 ml of dry DMF were added 606 mg (1 mmole) of 3-p-toluenesulfonyloxy-1,1,2-triiodo-1-propene and the reaction was effected at 25° C. for 2 hours. The reaction mixture was poured into 20 ml of ice-water while stirring vigorously and the mixture was allowed to stand for a further one hour. The crystalline substance thus separated was recovered by filtration, washed with water and then dried. Yield 440 mg (96%), mp 127°-128° C. (with decomposition).

reactant | imidazole | 5 mmoles, 340 mg | N1C=NC=C1 | C3H4N2
reactant | 3-p-toluenesulfonyloxy-1,1,2-triiodo-1-propene | 1 mmole, 606 mg | C1(=CC=C(C=C1)S(=O)(=O)OCC(=C(I)I)I)C | C10H9I3O3S
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 1-(2',3',3'-Triiodoallyl)imidazole | IC(CN1C=NC=C1)=C(I)I | C6H5I3N2
